US06884821B1
0.15 g of ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 0.24 g of 2-methoxy-4-(trifluoromethyl)benzoic acid were treated in the same manners as in Example 19d) and then in Example 1d), to give 0.15 g of 2-isopropoxy-3-[4-methoxy-3-({[2-methoxy-4-(trifluoromethyl)benzoyl]amino}methyl)phenyl]propanoic acid as a pale yellow oil.

reactant | ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | 0.15 g | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | 2-methoxy-4-(trifluoromethyl)benzoic acid | 0.24 g | COC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C9H7F3O3
product | 2-isopropoxy-3-[4-methoxy-3-({[2-methoxy-4-(trifluoromethyl)benzoyl]amino}methyl)phenyl]propanoic acid | 0.15 g | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CNC(C1=C(C=C(C=C1)C(F)(F)F)OC)=O | C23H26F3NO6
